US07625902B2
In analogy to example 2, N-{(R)-2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide was reacted with triphenylphosphine and diethylazodicarboxylate to give ((R)-1-benzenesulfonyl-aziridin-2-yl)-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-methanone.

reactant | N-{(R)-2-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-1-hydroxymethyl-2-oxo-ethyl}-benzenesulfonamide | CC1=C(C=C(C=C1)C)N1CCN(CC1)C([C@@H](CO)NS(=O)(=O)C1=CC=CC=C1)=O | C21H27N3O4S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | ((R)-1-benzenesulfonyl-aziridin-2-yl)-[4-(2,5-dimethyl-phenyl)-piperazin-1-yl]-methanone | C1(=CC=CC=C1)S(=O)(=O)[N@]1C(C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C | C21H25N3O3S
